US06797708B2
4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)-sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoic acid
Methyl 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]benzoate (1 eq), THF (0.1M), MeOH (1 mL/1 mL THF), and NaOH (1N) (11 eq) were stirred together overnight. Solvents were removed and the resulting residue was taken up in water. The solution was acidified with 1N HCl and collected resulting precipitate by filtration. Obtained 4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoic acid (red-orange solid) in 80% yield. HRMS calc for [C39H34Cl2N2O6S2+H] 761.13081 found 761.13146.

reactant | Methyl 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]benzoate | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C=C1)C=1C=C(C(=O)OC)C=CC1)CCNS(=O)(=O)CC1=C(C=CC=C1)Cl | C46H40Cl2N2O6S2
reactant | THF | 0.1M | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 11 eq | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)-sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)benzoic acid | 80% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C(=O)O)C=C1)CCNS(=O)(=O)CC1=C(C=CC=C1)Cl | C39H34Cl2N2O6S2
